2112-11-19 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2112-11-18**] 05:15 PM
 MULTI LUMEN - START [**2112-11-18**] 05:15 PM
 EKG - At [**2112-11-18**] 06:00 PM
 SPUTUM CULTURE - At [**2112-11-19**] 12:00 AM
 MULTI LUMEN - START [**2112-11-19**] 03:20 AM
 BLOOD CULTURED - At [**2112-11-19**] 04:26 AM
 URINE CULTURE - At [**2112-11-19**] 04:27 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-11-19**] 04:26 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Insulin - Regular - 24 units/hour
   Other ICU medications:
   Cisatracurium - [**2112-11-19**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-19**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.2
   Tcurrent: 35.1
C (95.2
   HR: 56 (48 - 73) bpm
   BP: 114/61(79) {91/52(68) - 134/88(94)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
    CVP: 16 (16 - 20)mmHg
   CO/CI (Fick): (5.9 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                    266 mL
                                                                    543 mL
   PO:
   TF:
   IVF:
                                                                    266 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                    213 mL
                                                                    113 mL
   Urine:
                                                                    213 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 50 cmH2O
   Plateau: 30 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/40/107/26/-2
   Ve: 11.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, small amount yellow crusting bilateral
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: full distal pulses
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: No spontaneous movement, Sedated, Paralyzed, Tone: Not
   assessed, toes downgoing bilateral
   Labs / Radiology
   412 K/uL
   14.8 g/dL
   339
   2.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   46 mg/dL
   94 mEq/L
   134 mEq/L
   49
   21.3 K/uL
        [image002.jpg]
                             [**2112-11-18**]  07:34 PM
                             [**2112-11-18**]  08:25 PM
                             [**2112-11-18**]  11:46 PM
                             [**2112-11-19**]  12:00 AM
                             [**2112-11-19**]  03:06 AM
                             [**2112-11-19**]  04:05 AM
                             [**2112-11-19**]  04:12 AM
                             [**2112-11-19**]  05:00 AM
                             [**2112-11-19**]  06:00 AM
                             [**2112-11-19**]  07:00 AM
   WBC
   21.3
   Hct
   45.9
   43.7
   49
   Plt
   412
   Cr
   2.2
   2.4
   TropT
   0.05
   TCO2
   27
   25
   24
   Glucose
   454
   420
   384
   384
   256
   339
   Other labs: PT / PTT / INR:13.7/28.3/1.2, CK / CKMB /
   Troponin-T:/7/0.05, Lactic Acid:3.3 mmol/L, LDH:308 IU/L, Ca++:9.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 68 year old man with DM and asthma who presents
   following a cardiopulmonary arrest at home.
   .
   1. s/p cardiac arrest
   ?PEA arrest secondary to hypoxia or acidosis, now in SR remains vent
   and pressor dependent. Though patient presents to the floor >6 hours
   after arrest, will proceed with cooling protocol as neurologic
   prognosis seems quite poor.
   - cycle cardiac enzymes
   - repeat EKG in AM
   - ASA 325 now
   - check TTE to eval pump function and for wmas
   .
   2. Hypotension
   Remains pressor dependent at this time. In setting of infecton,
   concerning for sepsis. Consider also cardiogenic shock, though seems
   less slikely.
   - fluid resuscitate to CVP 8-12
   - titrate levophed to MAP >65, urine output 50cc/hr
   - sepsis catheter
   - check SVo2
   - IJ placement for accurate CVP measurement
   .
   3. Respiratory failure
   Probably secondary to pneumonia versus COPD exacerbation. Imaging
   consistent with multifocal pna - recent MICU stay consider nosocomial
   pathogens though he has more recently been home. Patient currently with
   high PIPs nl plateaus c/w bronchospasm.
   - Will start empiric vanc/zosyn, might be able to [**Doctor Last Name **] back to
   ceftriaxone/levoflox
   - Check urinary legionella antigen.
   - F/u blood cultures
   - Gram stain and culture of respiratory secretions
   - Continue nebs and steroids
   .
   4. ?Anoxic brain injury
   Minimally responsive at this time
   - cooling as above
   - MRI head per neurosurgery recommendations once stabilized.
   - F/u neurology and neurosurgery recommendations.
   - Serial neuro checks.
   - EEG
   - f/u C spine read
   .
   4. DM - Not on insulin or oral agents at home. Will start insulin drip,
   goal fingersticks <150,
   .
   5. HTN - Holding home lisinopril in the setting of hypotension.
   .
   6. Hyperkalemia
   Peaked T's resolved on repeat EKG in ICU. Got calcium,
   insulin/dextrose. Kayexalate, repeat K.
   .
   7. ARF Cr up from baseline ~1.1 in setting of hypotension most likely
   ATN. Check UA, urine lytes, eos. Follow urine output, Cr.
   .
   FEN NPO
   Access currently right groin arterial line (attempted central line).
   Left groin triple lumen. -> will place radial A line and IJ
   PPX heparin SQ, protonix, mouthcare, head of bed elevations
   Dispo ICU
   Code FULL confirmed with wife
   Communication wife [**Name (NI) 1233**] [**Telephone/Fax (1) 4755**], son [**Name (NI) 107**] [**Telephone/Fax (1) 4756**]
 [**Name2 (NI) **]NSION (NOT SHOCK)
 HYPERGLYCEMIA
 HYPOTHERMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-18**] 05:15 PM
   18 Gauge - [**2112-11-18**] 05:15 PM
   Multi Lumen - [**2112-11-19**] 03:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-19 09:54:00 Physician Attending Progress Note
Chief Complaint: cardiopulm arrest, shock, anxoic brain injury
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2112-11-18**] 05:15 PM
 MULTI LUMEN - START [**2112-11-18**] 05:15 PM
 EKG - At [**2112-11-18**] 06:00 PM
 SPUTUM CULTURE - At [**2112-11-19**] 12:00 AM
 MULTI LUMEN - START [**2112-11-19**] 03:20 AM
 BLOOD CULTURED - At [**2112-11-19**] 04:26 AM
 URINE CULTURE - At [**2112-11-19**] 04:27 AM
   Started Cooling at 7:30 PM
   Paralyzed
   Persistently elevated PIPs
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-11-19**] 04:26 AM
   Vancomycin - [**2112-11-19**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Insulin - Regular - 25.5 units/hour
   Other ICU medications:
   Cisatracurium - [**2112-11-19**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-19**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.2
   Tcurrent: 35.1
C (95.2
   HR: 57 (48 - 73) bpm
   BP: 116/61(81) {90/52(68) - 134/88(94)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
   CVP: 14 (14 - 20)mmHg
   CO/CI (Fick): (5.9 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                    266 mL
                                                                  1,938 mL
   PO:
   TF:
   IVF:
                                                                    266 mL
                                                                  1,938 mL
   Blood products:
   Total out:
                                                                    213 mL
                                                                    173 mL
   Urine:
                                                                    213 mL
                                                                    173 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                  1,765 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 49 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/44/178/26/-1
   Ve: 8.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.8 g/dL
   412 K/uL
   278
   2.4 mg/dL
   26 mEq/L
   3.2 mEq/L
   46 mg/dL
   94 mEq/L
   134 mEq/L
   49
   21.3 K/uL
        [image002.jpg]
                             [**2112-11-19**]  12:00 AM
                             [**2112-11-19**]  03:06 AM
                             [**2112-11-19**]  04:05 AM
                             [**2112-11-19**]  04:12 AM
                             [**2112-11-19**]  05:00 AM
                             [**2112-11-19**]  06:00 AM
                             [**2112-11-19**]  07:00 AM
                             [**2112-11-19**]  08:30 AM
                             [**2112-11-19**]  09:00 AM
                             [**2112-11-19**]  09:13 AM
   WBC
   21.3
   Hct
   43.7
   49
   Plt
   412
   Cr
   2.4
   TropT
   0.05
   TCO2
   25
   24
   25
   Glucose
   384
   384
   256
   [**Telephone/Fax (3) 4766**]
   Other labs: PT / PTT / INR:13.7/28.3/1.2, CK / CKMB /
   Troponin-T:/7/0.05, Lactic Acid:2.3 mmol/L, LDH:308 IU/L, Ca++:9.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 HYPOTHERMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan
   68 yr good man with COPD s/p prolonged cardiac arrest transferred with
   shock and anoxic brain injury
   1. CardioPulmonary Arrest: etiology unclear- it may well have
   hypoxemic, hypercarbic as opposed to primary cardiac. ECG without
   evidence of STEMI. Will give ASA, no systemic anti coag in light of
   intra cranial edema. Initiate cooling though it is getting a late start
 worth a try given his down time. Presently with adequate MAPs on
   Levophed. Would favor getting IJ to transduce CVP and check SCVo2 to
   determine how much mixed cardiogenic septic
   2. Hypercarbic and Hypoxemic Resp Failure: he is actively
   bronchospastic with pulmonary edema. High PIP. Convert to PCV and
   paralyze. Continue IV steroids and aggressive MDI. Goal maintain pH
   greater than 7.15 with permissive hypercapnia.
   3. Anoxic brain Injury: supportive care, therapeutic hypothermia,
   follow up head CT in AM.
   4. ARF: ATN in setting of hypotension likely.
   5. Hyperglycemia: Insulin drip
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-18**] 05:15 PM
   18 Gauge - [**2112-11-18**] 05:15 PM
   Multi Lumen - [**2112-11-19**] 03:20 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  will meet with wife
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2112-11-20 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-11-19**] 09:38 AM
 TRANSTHORACIC ECHO - At [**2112-11-19**] 10:00 AM
 MULTI LUMEN - STOP [**2112-11-19**] 10:51 PM
   - Cooling protocol ended, patient warmed
   - Continues to be bradycardic & hypotensive requiring small boluses and
   levophed
   - Femoral A line failed, unable to replace with radial a line
   - Started on Dopamine for inotropic support, developed palpable thrill
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-11-19**] 04:26 AM
   Vancomycin - [**2112-11-19**] 08:15 AM
   Piperacillin - [**2112-11-19**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-20**] 05:57 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Dopamine - 2.5 mcg/Kg/min
   Insulin - Regular - 35 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-11-19**] 12:15 PM
   Dilantin - [**2112-11-19**] 09:38 PM
   Heparin Sodium (Prophylaxis) - [**2112-11-20**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 57 (45 - 71) bpm
   BP: 102/52(67) {65/39(48) - 123/80(89)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 68 Inch
    CVP: 15 (14 - 17)mmHg
   Total In:
                                                                  4,169 mL
                                                                  1,377 mL
   PO:
   TF:
   IVF:
                                                                  4,169 mL
                                                                  1,377 mL
   Blood products:
   Total out:
                                                                    335 mL
                                                                     29 mL
   Urine:
                                                                    335 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,834 mL
                                                                  1,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (390 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.24/56/84.[**Numeric Identifier 1000**]/24/-4
   Ve: 8.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PER
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: full distal pulses
   Respiratory / Chest: (Breath Sounds: mild Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: No spontaneous movement, Sedated, Paralyzed, Tone: Not
   assessed, toes downgoing bilateral
   Labs / Radiology
   381 K/uL
   14.6 g/dL
   349 mg/dL
   3.6 mg/dL
   24 mEq/L
   5.1 mEq/L
   60 mg/dL
   97 mEq/L
   132 mEq/L
   43.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2112-11-19**]  06:00 AM
                             [**2112-11-19**]  07:00 AM
                             [**2112-11-19**]  09:13 AM
                             [**2112-11-19**]  11:50 AM
                             [**2112-11-19**]  05:20 PM
                             [**2112-11-19**]  09:20 PM
                             [**2112-11-19**]  11:30 PM
                             [**2112-11-20**]  12:18 AM
                             [**2112-11-20**]  05:23 AM
                             [**2112-11-20**]  05:44 AM
   WBC
   23.2
   22.7
   Hct
   41.1
   43.1
   Plt
   367
   381
   Cr
   2.4
   2.6
   3.1
   3.6
   TCO2
   25
   25
   23
   25
   Glucose
   [**Telephone/Fax (3) 4795**]08
   288
   349
   Other labs: PT / PTT / INR:12.5/28.1/1.1, CK / CKMB /
   Troponin-T:/7/0.05, Lactic Acid:2.0 mmol/L, LDH:308 IU/L, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   68 year old man with DM and asthma who presents following a
   cardiopulmonary arrest at home.
   .
   1. s/p cardiac arrest
   ?PEA arrest secondary to hypoxia or acidosis, now in SR remains vent
   and pressor dependent. Though patient presents to the floor >6 hours
   after arrest, will proceed with cooling protocol as neurologic
   prognosis seems quite poor.  Cyceld cardiac enzymes. Repeated EKG.  ASA
   325 y/d.
   -  check TTE to eval pump function and for wmas
   .
   2. Hypotension
   Remains pressor dependent at this time. In setting of infecton,
   concerning for sepsis. Consider also cardiogenic shock.
   - fluid resuscitate to CVP 8-12
   - titrate levophed to MAP >65, urine output 50cc/hr
   - sepsis catheter
   - check SVo2
   - IJ placed for accurate CVP measurement
   .
   3. Respiratory failure
   Probably secondary to pneumonia versus COPD exacerbation. Imaging
   consistent with multifocal pna - recent MICU stay consider nosocomial
   pathogens though he has more recently been home. Patient currently with
   high PIPs nl plateaus c/w bronchospasm.
   - Started empiric vanc/zosyn
   - Check urinary legionella antigen.
   - F/u blood cultures
   - Gram stain and culture of respiratory secretions
   - Continue nebs and steroids
   .
   4. ?Anoxic brain injury
   Minimally responsive at this time
   - cooling as above
   - MRI head per neurosurgery recommendations once stabilized.
   - F/u neurology and neurosurgery recommendations.
   - Serial neuro checks.
   - EEG
   - f/u C spine read
   .
   4. DM - Started insulin drip and titer to sugars b/w 100-200, goal
   fingersticks <150
   .
   5. HTN - Holding home lisinopril in the setting of hypotension.
   .
   6. Hyperkalemia - peaked T's resolved on repeat EKG in ICU. Got
   calcium, insulin/dextrose. Kayexalate.  Repeat K WNL.
   .
   7. ARF Cr up from baseline ~1.1 in setting of hypotension most likely
   ATN. Check UA, urine lytes, eos. Follow urine output, Cr.
   .
   FEN NPO
   Access currently right IJ. Left groin triple lumen. R groin A-line.
   Plan to place radial A-line when possible.
   PPX heparin SQ, protonix, mouthcare, head of bed elevations
   Dispo ICU
   Code FULL confirmed with wife
   Communication wife [**Name (NI) 1233**] [**Telephone/Fax (1) 4755**], son [**Name (NI) 107**] [**Telephone/Fax (1) 4756**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-18**] 05:15 PM
   18 Gauge - [**2112-11-18**] 05:15 PM
   Multi Lumen - [**2112-11-19**] 03:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-20 09:18:00 Physician Attending Progress Note
Chief Complaint: cardioresp arrest, COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2112-11-19**] 09:38 AM
 TRANSTHORACIC ECHO - At [**2112-11-19**] 10:00 AM
 MULTI LUMEN - STOP [**2112-11-19**] 10:51 PM
   Rewarmed
   Hyperkalemic
   Dilantin loaded
   Off the paralytic
   required addition of  Dopamine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-11-19**] 04:26 AM
   Vancomycin - [**2112-11-19**] 08:15 AM
   Piperacillin - [**2112-11-19**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-20**] 05:57 AM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Insulin - Regular - 30 units/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-11-19**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2112-11-20**] 01:13 AM
   Dilantin - [**2112-11-20**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-20**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 57 (45 - 71) bpm
   BP: 104/54(67) {65/39(48) - 123/80(89)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 94%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 68 Inch
   CVP: 15 (14 - 17)mmHg
   Total In:
                                                                  4,169 mL
                                                                  1,887 mL
   PO:
   TF:
   IVF:
                                                                  4,169 mL
                                                                  1,887 mL
   Blood products:
   Total out:
                                                                    335 mL
                                                                     41 mL
   Urine:
                                                                    335 mL
                                                                     41 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,834 mL
                                                                  1,846 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (390 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.23/55/95.[**Numeric Identifier 143**]/24/-5
   Ve: 8.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen intubated and sedated
   HEENT: pupuils 5 mm unreactive no gag
   CV: brady RR
   Chest: better air movement but still long I : e and wheeze
   ABd : dostened min bowel sounds
   Ext: no edema
   Neuro: unresponsive to noxious stim, no gag, no pupullary constriction
   Labs / Radiology
   14.6 g/dL
   381 K/uL
   349 mg/dL
   3.6 mg/dL
   24 mEq/L
   4.8 mEq/L
   60 mg/dL
   97 mEq/L
   132 mEq/L
   43.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2112-11-19**]  07:00 AM
                             [**2112-11-19**]  09:13 AM
                             [**2112-11-19**]  11:50 AM
                             [**2112-11-19**]  05:20 PM
                             [**2112-11-19**]  09:20 PM
                             [**2112-11-19**]  11:30 PM
                             [**2112-11-20**]  12:18 AM
                             [**2112-11-20**]  05:23 AM
                             [**2112-11-20**]  05:44 AM
                             [**2112-11-20**]  08:52 AM
   WBC
   23.2
   22.7
   Hct
   41.1
   43.1
   Plt
   367
   381
   Cr
   2.4
   2.6
   3.1
   3.6
   TCO2
   25
   25
   23
   25
   24
   Glucose
   [**Telephone/Fax (3) 4798**]88
   349
   Other labs: PT / PTT / INR:12.5/28.1/1.1, CK / CKMB /
   Troponin-T:/7/0.05, Lactic Acid:2.7 mmol/L, LDH:308 IU/L, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   CXR: ETT and r IJ in good position, RLL infiltrate, hyperinflation
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan
   68 yr good man with COPD s/p prolonged cardiac arrest transferred with
   shock and anoxic brain injury
   1. CardioPulmonary Arrest: etiology unclear- likely hypoxemic,
   hypercarbic as opposed to primary cardiac. ECG without evidence of
   STEMI. Will give ASA, no systemic anti coag in light of intra cranial
   edema
   2. Shock: likely evolving septic, SCVO2 77, CVP 14, MAP 70, wean
   Levophed/Dopa as tolerated
   3. [**First Name9 (NamePattern2) 4800**] [**Doctor Last Name **] injury: no gag, no dolls eye, not overbreathing EEG
   looks flat, check stat repeat head ct to confirm findings., then
   proceed to brain death exam with Neuro approval
   2. Hypercarbic and Hypoxemic Resp Failure: he is actively
   bronchospastic with pulmonary edema. High PIP. Convert to PCV and
   paralyze. Continue IV steroids and aggressive MDI. Goal maintain pH
   greater than 7.15 with permissive hypercapnia.
   3. Anoxic brain Injury: supportive care, therapeutic hypothermia,
   follow up head CT perfusion.
   4. ARF: ATN in setting of hypotension likely.   Rising K
 would not
   start HD as progressing to near brain death
   5. Hyperglycemia: Insulin drip
 to maintain FS 180-200
 avoid lows in
   light of neurologic insult
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-18**] 05:15 PM
   18 Gauge - [**2112-11-18**] 05:15 PM
   Multi Lumen - [**2112-11-19**] 03:20 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  with wife. Set up family meeting
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Addendum
   Heat CT with progressive herniation, spoke with wife and children at
   bedside. They understand he is essentiually brain dead and agreed to
   defer apena test. Will extubate and make comfortable.
   NEOB notified
 no organs acceptable which would need persistent
   perfusion.
   Crit care: 30